US05260323
Pyridine-2,4-dicarboxamide N-oxide
From 1 g of pyridine-2,4-dicarboxamide and 1.2 g of MCPBA.

reactant | pyridine-2,4-dicarboxamide | 1 g | N1=C(C=C(C=C1)C(=O)N)C(=O)N | C7H7N3O2
reactant | MCPBA | 1.2 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | Pyridine-2,4-dicarboxamide N-oxide | N1=C(C=C(C=C1)C(=O)N)C(=O)[NH2]=O | C7H7N3O3
